US08871753B2
Step I: {1-[(5-Methylisoxazol-3-yl)carbonyl]piperidin-4-yl}acetic acid
Into the reaction flask was added methyl {1-[(5-methylisoxazol-3-yl)carbonyl]piperidin-4-yl}acetate (2.8 g, 10.0 mmol) and methanol (10 mL) and 3 M of sodium hydroxide in water (10 mL). The mixture was stirred at rt for 2 h. After concentration, the residue was neutralized to pH=7. The mixture was extracted with EtOAc twice. The combined organic layers were dried and concentrated to give the desired product (0.30 g, 11%). LCMS for C12H17N2O4 (M+H)+: m/z=253.1

reactant | methyl {1-[(5-methylisoxazol-3-yl)carbonyl]piperidin-4-yl}acetate | 10.0 mmol, 2.8 g | CC1=CC(=NO1)C(=O)N1CCC(CC1)CC(=O)OC | C13H18N2O4
reactant | methanol | 10 mL | CO | CH4O
reactant | sodium hydroxide | 3 M | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
product | {1-[(5-Methylisoxazol-3-yl)carbonyl]piperidin-4-yl}acetic acid | 0.30 g, 11% | CC1=CC(=NO1)C(=O)N1CCC(CC1)CC(=O)O | C12H16N2O4
